US07875639B2
N-[(2Z)-3-(4-tert-butylbenzyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, 1-bromomethyl-4-tert-butylbenzene and 1-adamantane carboxylic acid were processed according to the method of Example 47 to afford the title compound. 1H NMR (CDCl3, 500 MHz) δ ppm 1.24 (s, 9 H) 1.54-1.73 (m, 6 H) 1.82 (d, J=2.50 Hz, 6 H) 1.92-2.01 (m, 3 H) 2.10 (s, 3 H) 2.13 (s, 3 H) 5.39 (s, 2 H) 7.19 (d, J=8.42 Hz, 2 H) 7.36 (d, J=8.42 Hz, 2 H); MS (ESI) m/z 437 (M+H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | 1-bromomethyl-4-tert-butylbenzene | BrCC1=CC=C(C=C1)C(C)(C)C | C11H15Br
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z)-3-(4-tert-butylbenzyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | C(C)(C)(C)C1=CC=C(CN2/C(/SC(=C2C)C)=N/C(=O)C23CC4CC(CC(C2)C4)C3)C=C1 | C27H36N2OS
